US07612114B2
6-{2-{[4-(2-Cyclopropylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
A mixture of pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg), 2-chloro-N-cyclopropylacetamide (13 mg), cesium carbonate (32 mg), potassium iodide (5.0 mg) and tetrahydrofuran (2 ml) was stirred for 5 hours at 60° C. To the reaction solution was added dropwise borane-tetrahydrofuran complex (1.0 M solution in tetrahydrofuran) (0.49 ml), and the solution was stirred at 60° C. for one day and one night. The reaction solution was cooled to room temperature, concentrated hydrochloric acid (0.08 ml) was added thereto, the solution was stirred for 1.5 hours at 60° C., then an aqueous solution of 5N sodium hydroxide (1 ml) was added thereto, and the solution was stirred for 8 hours at 60° C. The reaction solution was diluted with water, then extracted with ethyl acetate. The organic layer was concentrated under a nitrogen stream; purified from a solution of the resulting residue in N,N-dimethylformamide by LC-MS, the title compound (9.0 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 2-chloro-N-cyclopropylacetamide | 13 mg | ClCC(=O)NC1CC1 | C5H8ClNO
reactant | cesium carbonate | 32 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 5.0 mg | [I-].[K+]
reactant | borane tetrahydrofuran | 1.0 M, 0.49 ml | B.O1CCCC1
reactant | hydrochloric acid | 0.08 ml | Cl | ClH
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 6-{2-{[4-(2-Cyclopropylaminoethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 9.0 mg | C1(CC1)NCCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1 | C32H40N2O3
